US05977117
Ethyl 2,6-difluorobenzoate (558 mg, 3.0 mmol) was added to dry sodium 3,4-methylenedioxyphenoxide (3.0 mmol, prepared as described in part A) in DMSO followed by addition of dry DMSO (2 ml). The reaction mixture was warmed to 50° C. forming a solution which turned from brown to green upon further heating. After 90 min., the reaction was cooled to 25° C., diluted with water (10 ml) and extracted with EtOAc (3×10 ml). The organic extract was washed with water (2×7 ml) and brine (7 ml), dried (MgSO4) and concentrated to give a light yellow oil. The product was purified by flash chromatography on SiO2 (5-20% EtOAc/hexane) yielding 532 mg of ethyl 2-fluoro-6-[3,4-(methylenedioxy)phenoxy]benzoate as a colorless oil (58% yield).

reactant | Ethyl 2,6-difluorobenzoate | 3.0 mmol, 558 mg | FC1=C(C(=O)OCC)C(=CC=C1)F | C9H8F2O2
reactant | sodium 3,4-methylenedioxyphenoxide | C1OC=2C=C([O-])C=CC2O1.[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | 10 ml | O | H2O
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | ethyl 2-fluoro-6-[3,4-(methylenedioxy)phenoxy]benzoate | 532 mg, 58% yield | FC1=C(C(=O)OCC)C(=CC=C1)OC1=CC2=C(C=C1)OCO2 | C16H13FO5
